US07563793B2
7-Bromo-4-tert-butyl-5-(3-methoxybenzoyl)-4,5-dihydropyrrolo[1,2-a]quinoxaline was prepared from 7-bromo-4-tert-butyl-4,5-dihydropyrrolo[1,2-a]quinoxaline and m-anisoyl chloride according to the procedure of Example 106, Step 2. The product was purified via Biotage Horizon® (25S, silica, gradient from 5% EtOAc/hexane to 40% EtOAc/hexane) and isolated as a white foam. MS (ESI) m/z 439/441 ([M+H]+); HRMS: calcd for C23H23BrN2O2, 438.0943; found (ESI+), 439.10084.

reactant | 7-bromo-4-tert-butyl-4,5-dihydropyrrolo[1,2-a]quinoxaline | BrC=1C=C2NC(C=3N(C2=CC1)C=CC3)C(C)(C)C | C15H17BrN2
reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
product | 7-Bromo-4-tert-butyl-5-(3-methoxybenzoyl)-4,5-dihydropyrrolo[1,2-a]quinoxaline | BrC=1C=C2N(C(C=3N(C2=CC1)C=CC3)C(C)(C)C)C(C3=CC(=CC=C3)OC)=O | C23H23BrN2O2
